US08217043B2
c) 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-(4-trifluoromethyl-benzyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 4-chloro-1-(4-trifluoromethyl-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonylacetic acid methyl ester (1.5 eq.). 1H NMR (CDCl3, δ in ppm): 7.56 (d, 2H, J=8.0 Hz), 7.30 (d, 2H, J=8.0 Hz), 6.84 (d, 1H, J=2.2 Hz), 6.52 (d, 2H, J=2.2 Hz), 5.31 (d, 1H, J=14.6 Hz), 4.48 (d, 1H, J=15.0 Hz), 3.73 (s, 3H), 3.72 (s, 3H), 3.20 (dd, 3H, J=14.6 Hz, 16.2 Hz).

reactant | 4-chloro-1-(4-trifluoromethyl-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)NCC1=CC=C(C=C1)C(F)(F)F | C14H12ClF3N2O2
reactant | chlorocarbonylacetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-(4-trifluoromethyl-benzyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N(CC1=CC=C(C=C1)C(F)(F)F)C(CC(=O)OC)=O | C18H16ClF3N2O5
